US07741559B2
1 g of 1,10-phenanthroline-5,6-dione (reagent; manufactured and sold by Sigma-Aldrich Co., U.S.A.) and 0.691 g of dithioxamide (reagent; manufactured and sold by Tokyo Kasei Kogyo Co., Ltd., Japan) were added to 40 ml of ethanol, and the resultant mixture was refluxed under heating in an atmosphere of air for 13 hours. The resultant reaction mixture was allowed to cool to room temperature, and subjected to a suction filtration using a filter paper (pore diameter: 1 μm), thereby obtaining powders. For removing substances remaining unreacted in the obtained powders, the powders were washed with 100 ml of chloroform at room temperature while stirring, followed by a suction filtration using a filter paper (pore diameter: 1 μm), thereby obtaining 0.759 g of 5,6-dihydroxy-1,10-phenanthroline in the form of powders.

reactant | 1,10-phenanthroline-5,6-dione | 1 g | N1=CC=CC=2C(C(C3=CC=CN=C3C12)=O)=O | C12H6N2O2
reactant | dithioxamide | 0.691 g | S1SO[CH-]C=C1
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 5,6-dihydroxy-1,10-phenanthroline | 0.759 g | OC1=C2C=CC=NC2=C2N=CC=CC2=C1O | C12H8N2O2
